US08791146B2
2-Chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-phenylpyridine-3,5-dicarbonitrile
9 g (19.762 mmol) of 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-phenylpyridine-3,5-dicarbonitrile are initially charged in 200 ml of acetonitrile, 7.98 ml (59.285 mmol) of isoamyl nitrite and 7.97 g (59.285 mmol) of copper(II) chloride are added and the mixture is stirred at 60° C. for 4 hours. 1N Hydrochloric acid is added to the mixture, and the precipitated solid is filtered off. It is purified on a silica gel column (mobile phase: toluene). This gives 5.98 g (63% of theory) of the target compound.

reactant | 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-phenylpyridine-3,5-dicarbonitrile | 19.762 mmol, 9 g | NC1=NC(=C(C(=C1C#N)C1=CC=CC=C1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C23H14ClN5S2
reactant | isoamyl nitrite | 59.285 mmol, 7.98 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | copper(II) chloride | 59.285 mmol, 7.97 g | [Cu](Cl)Cl
product | 2-Chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-phenylpyridine-3,5-dicarbonitrile | ClC1=NC(=C(C(=C1C#N)C1=CC=CC=C1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C23H12Cl2N4S2
